US07105544B2
N-{3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHYLPHENYL}-2-METHYLPROPANAMIDE
Example 32 was prepared from bis(4-fluorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 7.98 (s, 1H), 7.59 (d, 1H, J=1.8 Hz), 7.54–7.51 (m, 1H), 7.32 (m, 3H), 7.21–7.18 (m, 1H), 6.99–6.94 (m, 5H), 4.87 (s, 1H), 3.36 (q, 2H, J=5.8 Hz), 2.92–2.97 (m, 2H), 2.68–2.58 (m, 1H), 2.5 (quintet, 1H, J=7.2 Hz), 2.37 (t, 2H, J=5.7 Hz), 2.25 (s, 3H), 2.01–1.92 (m, 2H), 1.71–1.52 (m, 6H), 1.16 (d, 6H, J=7.2 Hz); ESMS m/e: 548.4 (M+H)+.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-{3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHYLPHENYL}-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)C1=CC=C(C=C1)F | C33H39F2N3O2
